US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-methyl-2-methoxy-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-methyl-2-methoxy-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (70 mg, 0.12 mmol) and CDI (39 mg, 0.24 mmol) in dry DMF (2 mL) was heated at 65° C. for 2 h. In a separate flask a mixture of methanesulfonamide (91 mg, 0.962 mmol) and NaH (60% in mineral oil) (38 mg, 0.95 mmol) (Aldrich) in DMF (3 mL), was stirred at room temperature for 2 h, then was added slowly to the above solution. The reaction mixture was stirred at room temperature for 2 h, then poured into water (3 mL) and the aqueous phase was acidified to “pH” 1-2 by addition of concentrated HCl. The mixture was extracted with EtOAc (20 mL) twice. The combined organic layers were dried over anhydrous Na2SO4, concentrated in vacuo and the residue was purified by Prep-HPLC to give the title compound as a white solid (8.5 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(5-methyl-2-methoxy-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.12 mmol, 70 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)O)=O)C1=C(C=CC(=C1)C)OC)=O | C30H28Cl2N2O6
reactant | CDI | 0.24 mmol, 39 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 0.962 mmol, 91 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 0.95 mmol, 38 mg | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 3 mL | O | H2O
product | Racemic (2′S,3S,4′R)-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-methyl-2-methoxy-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 8.5 mg | ClC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)C)OC)C(NC1=CC(=CC=C12)Cl)=O)OC(C(=O)NS(=O)(=O)C)(C)C | C31H31Cl2N3O7S
